US04025652
The free base is prepared by dissolving 1-(2,6-dimethylphenyl)-3-methylguanidine hydrochloride in 10% sodium hydroxide solution and extracting with ether. The ether is dried and evaporated to dryness to obtain 1-(2,6-dimethylphenyl)-3-methylguanidine.

reactant | 1-(2,6-dimethylphenyl)-3-methylguanidine hydrochloride | Cl.CC1=C(C(=CC=C1)C)NC(=N)NC
solvent | sodium hydroxide | [OH-].[Na+]
product | 1-(2,6-dimethylphenyl)-3-methylguanidine | CC1=C(C(=CC=C1)C)NC(=N)NC | C10H15N3
